US04775692
To a solution of diisopropylamine (19.74 ml, 140.8 mmol) in 100 ml of anhydrous THF was added dropwise n-butyl lithium (1.44N, 97.8 ml, 140.8 mmol) at 0° C. under argon atmosphere. The mixture was stirred at 0° C. for 1 hour and a half, and then 3-cyclohexylpropionic acid (10.00 g, 64.0 mmol) was added dropwise. After the mixture was stirred at 0° C. for 10 minutes, HMPA (24.5 ml, 140.8 mmol) was added dropwise and the mixture was stirred for 20 minutes. Methyl iodide (8.4 ml, 134.4 mmol) was further added dropwise at 0° C. and the mixture was stirred at room temperature for 2 hours. The reaction mixture was diluted with an aqueous saturated solution of ammonium chloride, and acidified to pH 2 with concentrated hydrochloric acid. The mixture was extracted with ethyl acetate (50 ml×4), and then, the combined ethyl acetate layers were washed with water (50 ml) and brine (50 ml), dried over anhydrous sodium sulfate, and concentrated. The residue was distilled to give a crude product of 3-cyclohexyl-2-methylpropionic acid (b.p. 90.5°-101° C./0.2 mmHg, 11.8556 g). To a solution of this crude product in 100 ml of ether was added dropwise 110 ml of a solution of diazomethane in ether at 0° C. After concentration, the residue was separated and purified through column chromatography (silica gel, ether), to give a pure product of methyl 3-cyclohexyl-2-methylpropionate (10.8672 g, 59.0 mmol, 92.2%). This compound was assigned the structure by the following data:

reactant | diisopropylamine | 140.8 mmol, 19.74 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 140.8 mmol, 1.44N, 97.8 ml | C(CCC)[Li]
reactant | 3-cyclohexylpropionic acid | 64.0 mmol, 10.00 g | C1(CCCCC1)CCC(=O)O | C9H16O2
reactant | HMPA | 140.8 mmol, 24.5 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | Methyl iodide | 134.4 mmol, 8.4 ml | CI | CH3I
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
product | 3-cyclohexyl-2-methylpropionic acid | 11.8556 g | C1(CCCCC1)CC(C(=O)O)C | C10H18O2
